US03947593
When in the procedure of Example 22, 2,7-dihydroxyanthraquinone and 2-diethylaminoethyl chloride are respectively substituted for 2,6-dihydroxyanthraquinone and 2-diisopropylaminoethyl chloride, 2,7-bis(2-diethylaminoethoxy)anthraquinone dihydrochloride is obtained. M.P. 232°-234°C (dec.).

reactant | 2,7-dihydroxyanthraquinone | OC1=CC=2C(C3=CC(=CC=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | 2-diethylaminoethyl chloride | C(C)N(CCCl)CC | C6H14ClN
reactant | 2,6-dihydroxyanthraquinone | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | 2-diisopropylaminoethyl chloride | C(C)(C)N(CCCl)C(C)C | C8H18ClN
product | 2,7-bis(2-diethylaminoethoxy)anthraquinone dihydrochloride | Cl.Cl.C(C)N(CCOC1=CC=2C(C3=CC(=CC=C3C(C2C=C1)=O)OCCN(CC)CC)=O)CC | InChI=1S/C26H34N2O4.2ClH/c1-5-27(6-2)13-15-31-19-9-11-21-23(17-19)26(30)24-18-20(10-12-22(24)25(21)29)32-16-14-28(7-3)8-4;;/h9-12,17-18H,5-8,13-16H2,1-4H3;2*1H
